US05929281
In a suspension of 26.6 g of KOH in 200 ml of dimethylformamide, 20.1 g of solid 5-bromoindole was incorporated while being stirred. The mixture was stirred for 50 minutes at room temperature, and 25.4 g of benzyl chloride was dropwise added to the mixture over a period of 16 minutes at a temperature of not higher than 30° C. The reaction mixture was maintained at 30° C. in an oil bath for 5 hours with stirring. After completion of the reaction, 200 ml of water was added and the thus-formed aqueous phase was extracted with 120 ml of ether three times. The thus-obtained organic phase was washed with water and dried over sodium sulfate overnight. The dried product was concentrated to dryness and then recrystallized from isopropyl ether to give 23.5 g of N-benzyl-5-bromoindole. The yield was 80% by mole.

reactant | KOH | 26.6 g | [OH-].[K+]
reactant | 5-bromoindole | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | benzyl chloride | 25.4 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | N-benzyl-5-bromoindole | 23.5 g, yield was 80% | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)Br | C15H12BrN
